US05747518
2) 3-amino-2-(4-tolyl)thiophene
The same procedures as described in Example 3 were carried out except that 3-nitro-2-(4-chlorophenyl)thiophene was replaced by 3-nitro-2-(4-tolyl)thiophene. The yield was 68%. 1H-NMR(CDCl3, δ value):2.37(3H, s), 3.79(2H, brs), 6.54(d, J=5.1), 7.09(1H, d, J=5.1), 7.22(2H, d, J=8.1), 7.41(2H, d, J=8.1)

reactant | 3-nitro-2-(4-chlorophenyl)thiophene | [N+](=O)([O-])C1=C(SC=C1)C1=CC=C(C=C1)Cl | C10H6ClNO2S
reactant | 3-nitro-2-(4-tolyl)thiophene | [N+](=O)([O-])C1=C(SC=C1)C1=CC=C(C=C1)C | C11H9NO2S
product | 3-amino-2-(4-tolyl)thiophene | yield was 68% | NC1=C(SC=C1)C1=CC=C(C=C1)C | C11H11NS
